// Bottom-plate sampling linearity TB: real transistor LB_SAR_BTS bootstrap.

simulator lang=spectre
global 0

parameters VDD=900m Vcm=450m A=225m CL=2p M_IN=1 M_VCM=1
parameters N_delay=10 N_extra=2 N=256 Fs=500M k=97
parameters t_delay=(N_delay/Fs) t_start=(t_delay + (1/Fs/2))
parameters t_end=(t_start + ((N + N_extra)/Fs)) Fin=((k/N)*Fs)

include "${PDK_ROOT}/models/spectre/toplevel_modified.scs" section=top_tt
include "../../common/stdcell_netlist/tcbn28hpcplusbwp12t30p140lvt_170a.spi"
include "bootstrap.scs"
include "bottom_plate_dut.scs"

subckt TB_CLOCKS CLKS CLKSE VDDC VSSC
    V_CLKS_IN (NET2 0) vsource dc=VDD type=pulse val0=0 val1=VDD period=1/Fs \
        delay=t_delay+50p rise=10p fall=10p width=1/4/Fs-50p
    V_CLKSE_IN (NET4 0) vsource dc=VDD type=pulse val0=0 val1=VDD period=1/Fs \
        delay=t_delay+50p rise=10p fall=10p width=1/4/Fs-100p
    I_CLKS_INV0 (NET2 AMPB VDDC VSSC) INVD32BWP12T30P140LVT
    I_CLKS_INV1 (AMPB CLKS VDDC VSSC) INVD32BWP12T30P140LVT
    I_CLKSE_INV0 (NET4 NET3 VDDC VSSC) INVD32BWP12T30P140LVT
    I_CLKSE_INV1 (NET3 CLKSE VDDC VSSC) INVD32BWP12T30P140LVT
ends TB_CLOCKS

V_VCM (VCM 0) vsource dc=Vcm type=dc
V_VSSC (VSSC 0) vsource dc=0 type=dc
V_VDDC (VDDC 0) vsource dc=VDD type=dc
V_VSSBTS (VSSBTS 0) vsource dc=0 type=dc
V_VDDBTS (VDDBTS 0) vsource dc=VDD type=dc
V_INN (VINN 0) vsource dc=Vcm type=sine sinedc=Vcm ampl=A sinephase=180 freq=Fin
V_INP (VINP 0) vsource dc=Vcm type=sine sinedc=Vcm ampl=A freq=Fin

I_CLK (CLKS CLKSE VDDC VSSC) TB_CLOCKS
I_BTS_CM (CLKSE VG VDDBTS VCM VSSBTS) LB_SAR_BTS
I_BTS_N (CLKS VGN VDDBTS VINN VSSBTS) LB_SAR_BTS
I_BTS_P (CLKS VGP VDDBTS VINP VSSBTS) LB_SAR_BTS
I_DUT (VSP VSN VTOPP VTOPN VGP VGN VG VCM VINP VINN 0) BOTTOM_PLATE_SAMPLER

simulatorOptions options psfversion="1.4.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 checklimitdest=psf
tran tran stop=t_end errpreset=conservative maxstep=50p write="spectre.ic" \
    writefinal="spectre.fc" annotate=status save=selected flushtime=30 \
    skipstart=t_start strobeperiod=1/Fs strobeoutput=strobeonly maxiters=5
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
save CLKS CLKSE VINP VINN VCM VSP VSN VTOPP VTOPN VGP VGN VG
save I_DUT.M_P:gds I_DUT.M_N:gds
saveOptions options save=selected
